US08030332B2
Preparation of 2-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-(dipyridin-3-ylmethyl)-N-methylpyridine-3-amine (1-3)
To a solution of 2-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-(dipyridin-3-ylmethyl)pyridine-3-amine (82 mg, 0.207 mmol) in dry DMF (1.5 mL) was added 60% sodium hydride/mineral oil (16 mg, 0.40 mmol) and let stir at ambient temperature for 15 minutes. Over a one hour period methyl iodide (3 drops) was added. The reaction was diluted with ethyl acetate, neutralized with acetic acid, and washed with water (3×). The organic layer was dried over anhydrous sodium sulfate, filtered, and the solvent evaporated. The residue was purified by chromatography on silica gel eluting with a 20-90% acetone/hexane gradient to give the title compound as a white solid. 1H-NMR (500 MHz, CDCl3): δ 8.50 (2H, d, J=4.6 Hz), 8.19 (2H, s), 8.16 (1H, d, J=4.4 Hz), 7.25 (2H, d, J=6.4 Hz), 7.15-7.17 (2H, m), 7.01 (21H, m), 6.75-6.84 (4H, m), 6.57 (1H, d, J=7.8 Hz), 6.01 (1H, s), 4.16 (2H, t, J=4.4 Hz), 3.86 (2H, t, J=4.4 Hz), 2.53 (3H, s). m/e (m+1): 410.2

reactant | 2-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-(dipyridin-3-ylmethyl)pyridine-3-amine | 0.207 mmol, 82 mg | O1CCN(C2=C1C=CC=C2)C2=NC=CC=C2NC(C=2C=NC=CC2)C=2C=NC=CC2 | C24H21N5O
reactant | sodium hydride | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | methyl iodide | 3 drops | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-(dipyridin-3-ylmethyl)-N-methylpyridine-3-amine | O1CCN(C2=C1C=CC=C2)C2=NC=CC=C2N(C)C(C=2C=NC=CC2)C=2C=NC=CC2 | C25H23N5O
